US07307073B2
(S)-8-Methoxy-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one
A solution of (S)-8-fluoro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]-benzoxazepine-5-one (0.5 g; 2.14 mmol), prepared as described in Example 5A, and sodium methoxide (0.244 g; 4.52 mmol) in dimethylformamide (2 mL) was heated at 110° C. for 3 h. The reaction was diluted with water and extracted with ethyl acetate and the organic layer washed with water then dried (Na2SO4) and evaporated in vacuo. The crude product was purified by chromatography on silica (eluting with 5% methanol in dichloromethane) to give the title product, m.p. 104-106° C.; EIMS: m/z=234 [M+H]+

reactant | (S)-8-fluoro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]-benzoxazepine-5-one | 2.14 mmol, 0.5 g | FC1=CC2=C(C(N3[C@H](CO2)CCC3)=O)C=C1 | C12H12FNO2
reactant | sodium methoxide | 4.52 mmol, 0.244 g | C[O-].[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-8-Methoxy-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one | COC1=CC2=C(C(N3[C@H](CO2)CCC3)=O)C=C1 | C13H15NO3
